US08022205B2
{2-[4-(2-Amino-pyrimidin-5-yl)-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidin-7-yl]-thiazol-4-yl}-[4-(2-hydroxy-ethyl)-piperazin-1-yl]-methanone (D-121)
Using N-2-hydroxyethylpiperazine instead of N-ethylpiperazine in Step B in Example 1-D-120, in the same manner as Step B in Example 1-D-120, a crude product of [2-(4-{2-[bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidin-7-yl)-thiazol-4-yl]-[4-(2-hydroxy-ethyl)-piperazin-1-yl]-methanone was obtained, and then the PMB groups were removed according to Deprotection method 1, to obtain the desired compound (D-121) as an ivory powder (20 mg, 29%).

reactant | N-2-hydroxyethylpiperazine | OCCN1CCNCC1 | C6H14N2O
reactant | [2-(4-{2-[bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidin-7-yl)-thiazol-4-yl]-[4-(2-hydroxy-ethyl)-piperazin-1-yl]-methanone | COC1=CC=C(CN(C2=NC=C(C=N2)C=2C3=C(N=C(N2)N2CCOCC2)N(CC3)C=3SC=C(N3)C(=O)N3CCN(CC3)CCO)CC3=CC=C(C=C3)OC)C=C1 | C40H46N10O5S
product | {2-[4-(2-Amino-pyrimidin-5-yl)-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidin-7-yl]-thiazol-4-yl}-[4-(2-hydroxy-ethyl)-piperazin-1-yl]-methanone | 20 mg, 29% | NC1=NC=C(C=N1)C=1C2=C(N=C(N1)N1CCOCC1)N(CC2)C=2SC=C(N2)C(=O)N2CCN(CC2)CCO | C24H30N10O3S
